US07678795B2
3-(2,4-Difluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine
yellow solid. MS (EI): 260.1 (M+). Prepared from 4,4-dimethyl-cyclopentane-1,2-dione, [[2-(2,4-difluoro-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 4,4-dimethyl-cyclopentane-1,2-dione | CC1(CC(C(C1)=O)=O)C | C7H10O2
reactant | [2-(2,4-difluoro-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=C(C=C1)F)F | C10H11F2O4P
reactant | hydrazine monohydrate | O.NN
product | 3-(2,4-Difluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine | FC1=C(C=CC(=C1)F)C1=CC2=C(N=N1)CC(C2)(C)C | C15H14F2N2
